US09034900B2
Step 3: N-[3-(2-methyl-1-oxo-2,7-naphthyridin-4-yl)phenyl]methanesulfonamide
A mixture of 4-bromo-2-methyl-2,7-naphthyridin-1-one (50 mg, 0.21 mmol), [3-(methanesulfonamido)phenyl]boronic acid (68 mg, 0.31 mmol), Pd(dppf)Cl2 (15.3 mg, 0.021 mmol) and aqueous K3PO4 (1 M, 0.3 mL, 0.3 mmol) in dioxane (3 mL) was microwaved at 90° C. for 40 min. Purification by silica gel chromatography (PE:EA=100:1 to 1:1) followed by preparative HPLC gave the title compound (48.1 mg, 69.8%) as a white solid. 1H NMR (400 MHz, Methanol-d4) δ 9.56 (s, 1H), 8.68 (d, J=6.4 Hz, 1H), 7.96 (s, 1H), 7.81 (d, J=6.4 Hz, 1H), 7.51 (t, J=7.6 Hz, 1H), 7.37 (d, J=2.0 Hz, 1H), 7.34 (d, J=1.6 Hz, 1H), 7.26 (d, J=7.6 Hz, 1H), 3.71 (s, 3H), 3.03 (s, 3H). LCMS: 330.0 (M+H)+

reactant | 4-bromo-2-methyl-2,7-naphthyridin-1-one | 0.21 mmol, 50 mg | BrC1=CN(C(C2=CN=CC=C12)=O)C | C9H7BrN2O
reactant | [3-(methanesulfonamido)phenyl]boronic acid | 0.31 mmol, 68 mg | CS(=O)(=O)NC=1C=C(C=CC1)B(O)O | C7H10BNO4S
reactant | K3PO4 | 0.3 mmol, 1 M, 0.3 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.021 mmol, 15.3 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-[3-(2-methyl-1-oxo-2,7-naphthyridin-4-yl)phenyl]methanesulfonamide | 48.1 mg, 69.8% | CN1C(C2=CN=CC=C2C(=C1)C=1C=C(C=CC1)NS(=O)(=O)C)=O | C16H15N3O3S
